US04409214
To a solution of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(trans-3-tert-butoxycarbonylallyloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.4 g) and anisole (4.4 ml) in methylene chloride (9.0 ml) was added trifluoroacetic acid (17.6 ml) under ice-cooling, and the mixture was stirred at ambient temperature for 2 hours. To the reaction mixture was added diisopropyl ether, and the precipitated substance was collected by filtration, which was washed with diisopropyl ether. To this substance were added ethyl acetate and water, and then adjusted to pH 7.5 with a saturated aqueous sodium bicarbonate. The separated aqueous layer was washed with ethyl acetate, and the remaining ethyl acetate in the aqueous solution was completely removed by evaporation, followed by adjusting to pH 2.2 with 10% hydrochloric acid. The precipitated substance was collected by filtration and then dried to obtain 7-[2-(2-aminothiazol-4-yl)-2-(trans-3-carboxyallyloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (2.31 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(trans-3-tert-butoxycarbonylallyloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 4.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC\C=C\C(=O)OC(C)(C)C | C35H35N5O7S2
reactant | anisole | 4.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 17.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 9.0 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-(trans-3-carboxyallyloxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.31 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC\C=C\C(=O)O | C18H17N5O7S2
